US04173641
t-Butylamine (30 ml) and 1,2-di-O-(n-hexadecyl)-3-O-[3-(1,2-epoxyethyl)-benzyl]-glycerol (2.0 g, 2.97 mmol) were placed in a steel bomb and heated to 100° C. for 9 hours. After cooling the reaction mixture, t-butylamine was removed under reduced pressure and the resulting oil purified by silica gel chromatography, eluted with benzene/ethanol. The desired fractions were saturated with gaseous hydrochloric acid, concentrated under reduced pressure, and recrystallized from ethyl acetate to give pure 1,2-di-O-(n-hexadecyl)-3-O-[3-(1-hydroxy-2-t-butylaminoethyl)-benzyl]-glycerol (630 mg, 27%): mp 49°-51° C.; NMR (CDCl3) δ 1.47 [s, 9, --C(CH3)3 ].

reactant | 1,2-di-O-(n-hexadecyl)-3-O-[3-(1,2-epoxyethyl)-benzyl]-glycerol | 2.97 mmol, 2.0 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1=CC(=CC=C1)C1CO1 | C44H80O4
reactant | t-Butylamine | 30 ml | C(C)(C)(C)N | C4H11N
product | 1,2-di-O-(n-hexadecyl)-3-O-[3-(1-hydroxy-2-t-butylaminoethyl)-benzyl]-glycerol | 630 mg, 27% | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1=CC(=CC=C1)C(CNC(C)(C)C)O | C48H91NO4
